US07902219B2
A solution of 0.21 g of 2-benzoylimidazo[1,2-a]pyridine-6-carboxylic acid hydrobromide, 0.35 g of EDCI hydrochloride and 0.294 g of HOBT in 7 mL of DMF is stirred for 30 minutes at 20° C., followed by addition of 1 mL of a 1 M solution of dimethylamine in THF, and the mixture is stirred for 2 hours at 20° C. The reaction mixture is concentrated to dryness and then taken up in 100 mL of water and 200 mL of ethyl acetate. The organic phase is separated out, dried and evaporated. The residue is purified by flash chromatography on a column of 20 g of silica, eluting with a 99/1 mixture of dichloromethane and methanol. The fractions containing the expected product are combined and concentrated under vacuum to give 40 mg of 2-benzoyl-N,N-dimethylimidazo[1,2-a]pyridine-6-carboxamide in the form of a beige-colored solid.

reactant | 2-benzoylimidazo[1,2-a]pyridine-6-carboxylic acid hydrobromide | 0.21 g | Br.C(C1=CC=CC=C1)(=O)C=1N=C2N(C=C(C=C2)C(=O)O)C1
reactant | EDCI hydrochloride | 0.35 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.294 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dimethylamine | CNC | C2H7N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-benzoyl-N,N-dimethylimidazo[1,2-a]pyridine-6-carboxamide | 40 mg | C(C1=CC=CC=C1)(=O)C=1N=C2N(C=C(C=C2)C(=O)N(C)C)C1 | C17H15N3O2
